US05859007
To a stirred solution of 5.65 g (52.7 mmol) p-Toluidine and 3.21 g (55.4 mmol, 1.05 equiv) Acetone in 50 mL DCE is added 14.52 g (68.5 mmol, 1.3 equiv) Sodium triacetoxyborohydride and stirred 18 h at ambient temperature. The reaction mixture is diluted with DCM (200 mL), washed successively with H2O (75 mL), satd. NaHCO3 (75 mL), and brine (75 mL), dried (MgSO4), filtered and concentrated in vacuo to give 7.67 g (51.4 mmol) of Isopropyl-p-tolyl-amine as a pale amber oil: 1H NMR (CDCl3, 300 MHz) δ7.00 (d, 2H, J=8.3), 6.54 (d, 2H, J=8.4), 3.61 (m, 1H), 2.25 (s, 3H), 1.21 (d, 6H, J=6.3); TLC Rf =0.50 (EtOAc/Hexanes, 1:9).

reactant | p-Toluidine | 52.7 mmol, 5.65 g | NC1=CC=C(C=C1)C | C7H9N
reactant | Acetone | 55.4 mmol, 3.21 g, 1.05 equiv | CC(=O)C | C3H6O
reactant | Sodium triacetoxyborohydride | 68.5 mmol, 14.52 g, 1.3 equiv | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 50 mL | ClCCCl | C2H4Cl2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | Isopropyl-p-tolyl-amine | 51.4 mmol, 7.67 g | C(C)(C)NC1=CC=C(C=C1)C | C10H15N
